US04438267
2,4-Diamino-5-(4-amino-3,6-dimethoxy-1-naphthylmethyl)pyrimidine dihydrochloride
A mixture of 1-amino-2,7-dimethoxynaphthalene (2.03 g, 10.00 mmol) [O. Fischer and W. Kern, J. Prakt. Chem., 94, 34(1916)], 2,4-diamino-5-hydroxymethylpyrimidine (1.40 g, 10.0 mmol), glacial acetic acid (20 mL) and concentrated hydrochloric acid (1.4 mL) was refluxed for 2 hr. The cooled reaction mixture was diluted with acetone and the resulting precipitate was collected and dried giving the title compound as a grey solid (3.40 g, 78%). Recrystallization from aqueous ethanol with concentrated HCl gave an analytical sample, mp >210° dec. Anal. Calcd for C17H19N5O2.2HCl.2H2O: C, 47.01; H, 5.80; N, 16.12; Cl, 16.32. Found: C, 47.19; H, 5.90; N, 16.05; Cl, 16.37.

reactant | 1-amino-2,7-dimethoxynaphthalene | 10.00 mmol, 2.03 g | NC1=C(C=CC2=CC=C(C=C12)OC)OC | C12H13NO2
reactant | 2,4-diamino-5-hydroxymethylpyrimidine | 10.0 mmol, 1.40 g | NC1=NC=C(C(=N1)N)CO | C5H8N4O
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 1.4 mL | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 2,4-Diamino-5-(4-amino-3,6-dimethoxy-1-naphthylmethyl)pyrimidine dihydrochloride | 3.40 g, 78% | Cl.Cl.NC1=NC=C(C(=N1)N)CC1=CC(=C(C2=CC(=CC=C12)OC)N)OC | InChI=1S/C17H19N5O2.2ClH/c1-23-11-3-4-12-9(5-10-8-21-17(20)22-16(10)19)6-14(24-2)15(18)13(12)7-11;;/h3-4,6-8H,5,18H2,1-2H3,(H4,19,20,21,22);2*1H
